* sg13g2-lna -- npn13G2 noise-optimum device characterization (issue #7)
* Generated from
* sim/hbt-characterization/testbench/tb_hbt_sweep.spice.tmpl by
* sim/hbt-characterization/run_hbt_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full methodology, bench definitions and rationale are in
* sim/hbt-characterization/README.md; this header is a short pointer.
*
* Generated for: HBT_SECTION=hbt_wcs TEMP=125 Nx=1
* VCE=0.6V, base voltage swept 26 points from 0.55V
* in 0.02V steps.
*
* TWO independent DUT branches, sharing only the corner-lib model card
* (not electrically connected), both instantiating the same npn13G2
* Nx=1 device:
*
*   XQ1 (nodes c/b/e)   -- the 50 Ohm-referenced RF port bench. Base and
*     collector are each fed through an "ideal bias tee" (a DC source in
*     series with a 1 H inductor -- at 2.4 GHz that inductor presents
*     ~1.5e10 Ohm, an effectively open RF choke, while offering zero DC
*     drop). The base's RF port is AC-coupled through a 1 F "ideal DC
*     block" capacitor (~6.6e-11 Ohm at 2.4 GHz, effectively a short) to a
*     50 Ohm Thevenin source (Rs=50, driven by Vin); the collector's RF
*     port is identically AC-coupled to a 50 Ohm load RL. Rs is pinned at
*     temp=27 (300.15 K) regardless of the swept ambient corner -- the
*     standard Friis/IEEE noise-figure convention of holding the SOURCE
*     reference temperature fixed while only the DUT's ambient varies (see
*     README.md "Noise figure bench" for the full rationale). This branch
*     is used for: (a) J_C via its own DC operating point, (b) 50
*     Ohm-terminated transducer gain |S21|^2 at 2.4 GHz via a 1 V
*     open-circuit source (S21 = 2*Vout/Vin for a Zs=Zo=ZL=50 Ohm 2-port),
*     and (c) NF at 2.4 GHz via ngspice .noise, referenced to the same
*     fixed 300.15 K source temperature: NF = 10*log10(inoise^2 / (4 k T0
*     Rs)).
*
*   XQ2 (nodes c2/b2/e2) -- the short-circuit h21/fT bench. Base is driven
*     by an ideal DC+AC current source (Ib2, no RF port, no 50 Ohm
*     convention -- h21 is a unitless, port-independent short-circuit
*     current-gain figure by definition); collector is tied directly to an
*     ideal DC voltage source (zero AC impedance = ideal short). Ib2's DC
*     value is alter()ed every sweep point to XQ1's own measured base
*     current at that point, so both branches sit at (very nearly) the
*     same DC operating point despite the different RF terminations. fT is
*     extracted from a wide .ac sweep of h21 = -i(Vce2)/Ib2_ac (Ib2_ac=1A)
*     via a 0 dB crossing (ngspice `meas ac ... WHEN h21db=0`), skipped
*     (reported NA) below a 1 nA Ic floor where the device is
*     effectively off and h21 never crosses 0 dB in the swept range.
*
* NOTE ON EXECUTION ORDER (ngspice "current plot" gotcha, same class of
* issue sg13g2-opamp/sim/gm-id-characterization/testbench/*.tmpl
* documents): every measured quantity is echoed to stdout IMMEDIATELY
* after the analysis that produced it, before the next analysis switches
* ngspice's "current plot" -- both the echo AND the `if icval > 1e-9`
* gate on the fT branch must happen before any subsequent analysis runs,
* or the referencing vector silently goes stale. The fT branch therefore
* runs BEFORE the gain/noise analyses below it, not after.

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_wcs

.options temp=125 tnom=27

* --- XQ1: 50 Ohm RF-port bench (gain, NF) ---
Vcc cc 0 dc 0.6
Lc cc c 1
Vbb bb 0 dc 0.55
Lb bb b 1
Cin rf_in b 1
Rs vin rf_in 50 temp=27
Vin vin 0 dc 0 ac 1
Cout c out 1
RL out 0 50
Ve e 0 dc 0
XQ1 c b e 0 npn13G2 Nx=1

* --- XQ2: short-circuit h21/fT bench ---
Ib2 0 b2 dc 0 ac 1
Vce2 c2 0 dc 0.6
Ve2 e2 0 dc 0
XQ2 c2 b2 e2 0 npn13G2 Nx=1

.control
let i = 0
let n = 26
dowhile i < n
  let vbeval = 0.55 + i*0.02
  echo "PT $&vbeval"
  alter Vbb = $&vbeval
  op
  let icval = @q.xq1.qnpn13g2[ic]
  let ibval = @q.xq1.qnpn13g2[ib]
  echo "IC $&icval"

  if icval > 1e-9
    alter Ib2 = $&ibval
    ac dec 20 1meg 3000g
    let h21db = db(-i(vce2))
    meas ac ftmeas WHEN h21db=0
    echo "FT $&ftmeas"
  else
    echo "FT NA"
  end

  ac lin 1 2.4g 2.4g
  let gaindb = db(2*v(out))
  echo "GAIN $&gaindb"

  noise v(out) vin lin 1 2.4g 2.4g
  let nfdb = 10*log10((inoise_spectrum^2)/(4*1.3806503e-23*300.15*50))
  echo "NF $&nfdb"

  let i = i + 1
end
.endc
.end
